US05334519
The suspension of the bacterial cells (corresponding t 25 to 5.92 mg of the dry cells) obtained in Example 8 was added to 4 ml of the reaction solution containing 10 mM of a potassium phosphate buffer (pH 8.0) and 4 M of 3-indoleacetonitrile, and the reaction was conducted at 25° C. After 24 hours from the initiation of the reaction, 4 M (697 g/lit.) of 3-indoleacetamide was produced with a 100% conversion.

reactant | potassium phosphate | 10 mM, pH 8.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-indoleacetonitrile | 4 M | N1C=C(C2=CC=CC=C12)CC#N | C10H8N2
product | 3-indoleacetamide | 4 M | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
